US06436964B1
A 100 mL round bottom flask was charged with 2-picoline (2.52 mL, 25.5 mmol) and anhydrous THF (30 mL). The solution was cooled to −78° C. and n-butyllithium (17.5 mL of a 1.6 M solution in THF, 28.05 mmol) was added dropwise to the solution. After addition was complete, the reaction was warmed slowly to room temperature over one hour and then cooled again to −78° C. N-methoxy-N-methyl cycloheptyl amide (5.0 g, 27.03 mmol, formed above) was added to the reaction. The reaction mixture was allowed to warm to room temperature with stirring overnight. The reaction was carefully quenched with water and extracted with ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by flash chromatography (ethyl acetate:hexane, 3:7, silica gel) to provide 1-cycloheptyl-2-(2-pyridyl)ethan-1-one (5.03 g, 91%)

reactant | 2-picoline | 25.5 mmol, 2.52 mL | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-cycloheptyl-2-(2-pyridyl)ethan-1-one | 5.03 g, 91% | C1(CCCCCC1)C(CC1=NC=CC=C1)=O | C14H19NO
